US07160889B2
A solution of 7-[2-hydroxy-3-(4-methylpiperazin-1-yl)propoxy]-6-methoxy-3-(pivaloyloxymethyl)-3,4-dihydroquinazolin-4-one (4.3 g, 9.3 mmol) in methanol saturated with ammonia (100 ml) was stirred for 2 days at ambient temperature. The volatiles were removed under vacuum and the residue was triturated with ether, filtered, washed with ether and dried under vacuum to give 7-(2-hydroxy-3-(4-methylpiperazin-1-yl)propoxy)-6-methoxyquinazolin-4-one (3.4 g, quant.).

reactant | 7-[2-hydroxy-3-(4-methylpiperazin-1-yl)propoxy]-6-methoxy-3-(pivaloyloxymethyl)-3,4-dihydroquinazolin-4-one | 9.3 mmol, 4.3 g | OC(COC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC)CN1CCN(CC1)C | C23H34N4O6
reactant | ammonia | 100 ml | N | H3N
solvent | methanol | CO | CH4O
product | 7-(2-hydroxy-3-(4-methylpiperazin-1-yl)propoxy)-6-methoxyquinazolin-4-one | 3.4 g | OC(COC1=C(C=C2C(NC=NC2=C1)=O)OC)CN1CCN(CC1)C | C17H24N4O4
